US04526895
3-(4-pyridyl)-4-methyl-5-methoxy-pyrazole
1.5 mg of 3-(4-pyridyl)-4-methyl-5-pyrazolone, 2.3 g of triphenylphosphine and 0.27 g of methanol were placed in 30 ml of tetrahydrofuran. The mixture was cooled on an ice bath to 2° C. and 1.6 g of ethyl azodicarboxylate dissolved in 9 ml of tetrahydrofuran was added dropwise.

reactant | 3-(4-pyridyl)-4-methyl-5-pyrazolone | 1.5 mg | N1=CC=C(C=C1)C=1N=NC(C1C)=O | C9H7N3O
reactant | triphenylphosphine | 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 0.27 g | CO | CH4O
reactant | ethyl azodicarboxylate | 1.6 g | N(=NC(=O)[O-])C(=O)OCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 3-(4-pyridyl)-4-methyl-5-methoxy-pyrazole | N1=CC=C(C=C1)C1=NNC(=C1C)OC | C10H11N3O
